US05654326
By the method used in Example 1, Part D, 911 mg (2.6 mmol) of 1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-4-methoxy-1H-indole was O-demethylated by treating it with 10 mL of 1M BBr3 /CH2Cl2. The crude produce was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 590 mg (69% yield) of 1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-4-hydroxy-1H-indole as an oil.

reactant | 1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-4-methoxy-1H-indole | 2.6 mmol, 911 mg | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)OC)CC)C1=CC=CC=C1 | C24H23NO
solvent | BBr3 CH2Cl2 | 1M, 10 mL | B(Br)(Br)Br.C(Cl)Cl
product | 1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-4-hydroxy-1H-indole | 590 mg, 69% yield | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)O)CC)C1=CC=CC=C1 | C23H21NO
